* Subcircuit 7447
.subckt 7447 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ 
* c:\fossee\esim\library\subcircuitlibrary\7447\7447.cir
.include 4_and.sub
.include 3_and.sub
* u3  net-_u1-pad1_ net-_u1-pad6_ net-_u10-pad1_ d_nand
* u4  net-_u1-pad2_ net-_u1-pad6_ net-_u11-pad1_ d_nand
* u5  net-_u1-pad3_ net-_u1-pad6_ net-_u12-pad1_ d_nand
* u2  net-_u1-pad4_ net-_u13-pad1_ d_inverter
* u6  net-_u1-pad7_ net-_u6-pad2_ d_inverter
x1 net-_u1-pad6_ net-_u6-pad2_ net-_u11-pad1_ net-_u12-pad1_ net-_u33-pad1_ 4_and
* u9  net-_u13-pad1_ net-_u10-pad1_ net-_u33-pad2_ d_and
* u10  net-_u10-pad1_ net-_u1-pad5_ net-_u10-pad3_ d_nand
* u11  net-_u11-pad1_ net-_u1-pad5_ net-_u11-pad3_ d_nand
* u12  net-_u12-pad1_ net-_u1-pad5_ net-_u12-pad3_ d_nand
* u13  net-_u13-pad1_ net-_u1-pad5_ net-_u13-pad3_ d_nand
* u14  net-_u11-pad3_ net-_u13-pad3_ net-_u14-pad3_ d_and
* u15  net-_u10-pad1_ net-_u12-pad3_ net-_u15-pad3_ d_and
x10 net-_u10-pad3_ net-_u11-pad1_ net-_u12-pad1_ net-_u13-pad1_ ? 4_and
* u16  net-_u11-pad3_ net-_u13-pad3_ net-_u16-pad3_ d_and
x2 net-_u10-pad3_ net-_u11-pad1_ net-_u12-pad3_ net-_u23-pad2_ 3_and
x3 net-_u10-pad1_ net-_u11-pad3_ net-_u12-pad3_ net-_u36-pad2_ 3_and
* u17  net-_u12-pad3_ net-_u13-pad3_ net-_u17-pad3_ d_and
x4 net-_u10-pad1_ net-_u11-pad3_ net-_u12-pad1_ net-_u27-pad2_ 3_and
x5 net-_u10-pad3_ net-_u11-pad1_ net-_u12-pad1_ net-_u24-pad1_ 3_and
x6 net-_u10-pad1_ net-_u11-pad1_ net-_u12-pad3_ net-_u24-pad2_ 3_and
x7 net-_u10-pad3_ net-_u11-pad3_ net-_u12-pad3_ net-_u37-pad2_ 3_and
* u21  net-_u10-pad3_ net-_u21-pad2_ d_buffer
* u18  net-_u11-pad1_ net-_u12-pad3_ net-_u18-pad3_ d_and
* u19  net-_u10-pad3_ net-_u11-pad3_ net-_u19-pad3_ d_and
* u20  net-_u11-pad3_ net-_u12-pad1_ net-_u20-pad3_ d_and
x8 net-_u10-pad3_ net-_u12-pad1_ net-_u13-pad1_ net-_u38-pad2_ 3_and
x9 net-_u10-pad3_ net-_u11-pad3_ net-_u12-pad3_ net-_u28-pad1_ 3_and
x11 net-_u11-pad1_ net-_u12-pad1_ net-_u13-pad1_ net-_u1-pad6_ net-_u28-pad2_ 4_and
* u27  net-_u17-pad3_ net-_u27-pad2_ net-_u27-pad3_ d_nor
* u26  net-_u21-pad2_ net-_u18-pad3_ net-_u26-pad3_ d_nor
* u28  net-_u28-pad1_ net-_u28-pad2_ net-_u28-pad3_ d_nor
* u22  net-_u14-pad3_ net-_u15-pad3_ net-_u22-pad3_ d_nor
* u29  net-_u22-pad3_ net-_u22-pad3_ net-_u29-pad3_ d_nor
* u35  net-_u29-pad3_ ? net-_u35-pad3_ d_nor
* u23  net-_u16-pad3_ net-_u23-pad2_ net-_u23-pad3_ d_nor
* u30  net-_u23-pad3_ net-_u23-pad3_ net-_u30-pad3_ d_nor
* u36  net-_u30-pad3_ net-_u36-pad2_ net-_u36-pad3_ d_nor
* u24  net-_u24-pad1_ net-_u24-pad2_ net-_u24-pad3_ d_nor
* u31  net-_u24-pad3_ net-_u24-pad3_ net-_u31-pad3_ d_nor
* u37  net-_u31-pad3_ net-_u37-pad2_ net-_u37-pad3_ d_nor
* u25  net-_u19-pad3_ net-_u20-pad3_ net-_u25-pad3_ d_nor
* u32  net-_u25-pad3_ net-_u25-pad3_ net-_u32-pad3_ d_nor
* u38  net-_u32-pad3_ net-_u38-pad2_ net-_u38-pad3_ d_nor
* u33  net-_u33-pad1_ net-_u33-pad2_ net-_u1-pad5_ d_nand
* u39  net-_u35-pad3_ net-_u1-pad8_ d_inverter
* u40  net-_u36-pad3_ net-_u1-pad9_ d_inverter
* u34  net-_u27-pad3_ net-_u1-pad10_ d_inverter
* u41  net-_u37-pad3_ net-_u1-pad11_ d_inverter
* u8  net-_u26-pad3_ net-_u1-pad12_ d_inverter
* u42  net-_u38-pad3_ net-_u1-pad13_ d_inverter
* u7  net-_u28-pad3_ net-_u1-pad14_ d_inverter
a1 [net-_u1-pad1_ net-_u1-pad6_ ] net-_u10-pad1_ u3
a2 [net-_u1-pad2_ net-_u1-pad6_ ] net-_u11-pad1_ u4
a3 [net-_u1-pad3_ net-_u1-pad6_ ] net-_u12-pad1_ u5
a4 net-_u1-pad4_ net-_u13-pad1_ u2
a5 net-_u1-pad7_ net-_u6-pad2_ u6
a6 [net-_u13-pad1_ net-_u10-pad1_ ] net-_u33-pad2_ u9
a7 [net-_u10-pad1_ net-_u1-pad5_ ] net-_u10-pad3_ u10
a8 [net-_u11-pad1_ net-_u1-pad5_ ] net-_u11-pad3_ u11
a9 [net-_u12-pad1_ net-_u1-pad5_ ] net-_u12-pad3_ u12
a10 [net-_u13-pad1_ net-_u1-pad5_ ] net-_u13-pad3_ u13
a11 [net-_u11-pad3_ net-_u13-pad3_ ] net-_u14-pad3_ u14
a12 [net-_u10-pad1_ net-_u12-pad3_ ] net-_u15-pad3_ u15
a13 [net-_u11-pad3_ net-_u13-pad3_ ] net-_u16-pad3_ u16
a14 [net-_u12-pad3_ net-_u13-pad3_ ] net-_u17-pad3_ u17
a15 net-_u10-pad3_ net-_u21-pad2_ u21
a16 [net-_u11-pad1_ net-_u12-pad3_ ] net-_u18-pad3_ u18
a17 [net-_u10-pad3_ net-_u11-pad3_ ] net-_u19-pad3_ u19
a18 [net-_u11-pad3_ net-_u12-pad1_ ] net-_u20-pad3_ u20
a19 [net-_u17-pad3_ net-_u27-pad2_ ] net-_u27-pad3_ u27
a20 [net-_u21-pad2_ net-_u18-pad3_ ] net-_u26-pad3_ u26
a21 [net-_u28-pad1_ net-_u28-pad2_ ] net-_u28-pad3_ u28
a22 [net-_u14-pad3_ net-_u15-pad3_ ] net-_u22-pad3_ u22
a23 [net-_u22-pad3_ net-_u22-pad3_ ] net-_u29-pad3_ u29
a24 [net-_u29-pad3_ ? ] net-_u35-pad3_ u35
a25 [net-_u16-pad3_ net-_u23-pad2_ ] net-_u23-pad3_ u23
a26 [net-_u23-pad3_ net-_u23-pad3_ ] net-_u30-pad3_ u30
a27 [net-_u30-pad3_ net-_u36-pad2_ ] net-_u36-pad3_ u36
a28 [net-_u24-pad1_ net-_u24-pad2_ ] net-_u24-pad3_ u24
a29 [net-_u24-pad3_ net-_u24-pad3_ ] net-_u31-pad3_ u31
a30 [net-_u31-pad3_ net-_u37-pad2_ ] net-_u37-pad3_ u37
a31 [net-_u19-pad3_ net-_u20-pad3_ ] net-_u25-pad3_ u25
a32 [net-_u25-pad3_ net-_u25-pad3_ ] net-_u32-pad3_ u32
a33 [net-_u32-pad3_ net-_u38-pad2_ ] net-_u38-pad3_ u38
a34 [net-_u33-pad1_ net-_u33-pad2_ ] net-_u1-pad5_ u33
a35 net-_u35-pad3_ net-_u1-pad8_ u39
a36 net-_u36-pad3_ net-_u1-pad9_ u40
a37 net-_u27-pad3_ net-_u1-pad10_ u34
a38 net-_u37-pad3_ net-_u1-pad11_ u41
a39 net-_u26-pad3_ net-_u1-pad12_ u8
a40 net-_u38-pad3_ net-_u1-pad13_ u42
a41 net-_u28-pad3_ net-_u1-pad14_ u7
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u3 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u4 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u5 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u10 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u11 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u12 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u13 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u14 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u16 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_buffer, NgSpice Name: d_buffer
.model u21 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u27 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u26 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u28 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u22 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u29 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u35 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u23 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u30 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u36 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u24 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u31 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u37 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u25 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u32 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u38 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u33 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u39 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u40 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u34 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u41 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u42 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 7447