* c:\fossee\esim\library\subcircuitlibrary\lm78l_sub\lm78l_sub.cir

.include PNP.lib
.include NPN.lib
.include NJF.lib
r1  net-_j1-pad1_ net-_q2-pad3_ 418
j1 net-_j1-pad1_ net-_j1-pad2_ net-_j1-pad3_ J2N3819
q2 net-_q1-pad3_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
q3 net-_q1-pad1_ net-_q1-pad1_ net-_j1-pad1_ Q2N2907A
q8 net-_q12-pad3_ net-_q1-pad1_ net-_j1-pad1_ Q2N2907A
q1 net-_q1-pad1_ net-_j1-pad3_ net-_q1-pad3_ Q2N2222
q4 net-_q1-pad1_ net-_q1-pad3_ net-_q4-pad3_ Q2N2222
r2  net-_q4-pad3_ net-_q7-pad2_ 576
q7 net-_q7-pad1_ net-_q7-pad2_ net-_q4-pad3_ Q2N2907A
r3  net-_q7-pad2_ net-_r3-pad2_ 3.41k
* u1  ? net-_j1-pad3_ zener
r4  net-_r3-pad2_ net-_q11-pad2_ 3.89k
q5 net-_q11-pad2_ net-_q11-pad2_ net-_q5-pad3_ Q2N2222
q6 net-_q5-pad3_ net-_q5-pad3_ net-_j1-pad2_ Q2N2222
* u2  net-_j1-pad2_ net-_q1-pad3_ zener
r5  net-_q7-pad1_ net-_j1-pad2_ 7.8k
q9 net-_q12-pad3_ net-_q7-pad1_ net-_j1-pad2_ Q2N2222
q12 net-_j1-pad2_ net-_c1-pad1_ net-_q12-pad3_ Q2N2907A
r8  net-_q12-pad3_ net-_c1-pad1_ 5.76k
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q13 net-_c1-pad1_ net-_c1-pad2_ net-_q10-pad3_ Q2N2222
r6  net-_q10-pad2_ net-_r3-pad2_ 13k
q14 net-_q12-pad3_ net-_q14-pad2_ net-_q14-pad3_ Q2N2222
r9  net-_q14-pad3_ net-_r13-pad1_ 100
* u4  net-_q14-pad2_ net-_r10-pad1_ zener
r11  net-_q16-pad3_ net-_q14-pad2_ 100
q15 net-_j1-pad1_ net-_q12-pad3_ net-_q10-pad1_ Q2N2222
r13  net-_r13-pad1_ net-_q10-pad1_ 2.5k
q16 net-_j1-pad1_ net-_q10-pad1_ net-_q16-pad3_ Q2N2222
r14  net-_r13-pad1_ net-_q16-pad3_ 1.9
r10  net-_r10-pad1_ net-_r10-pad2_ 5k
* u3  net-_r10-pad2_ net-_j1-pad1_ zener
q11 net-_q10-pad3_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
r7  net-_q11-pad3_ net-_j1-pad2_ 2.84k
c1  net-_c1-pad1_ net-_c1-pad2_ 5pf
r12  net-_r12-pad1_ net-_c1-pad2_ 15k
r15  net-_r12-pad1_ net-_r13-pad1_ 1.5k
r16  net-_j1-pad2_ net-_r12-pad1_ 2.23k
* u5  net-_j1-pad1_ net-_r13-pad1_ net-_j1-pad2_ port
a1 ? net-_j1-pad3_ u1
a2 net-_j1-pad2_ net-_q1-pad3_ u2
a3 net-_q14-pad2_ net-_r10-pad1_ u4
a4 net-_r10-pad2_ net-_j1-pad1_ u3
* Schematic Name:                             zener, NgSpice Name: zener
.model u1 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             zener, NgSpice Name: zener
.model u2 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             zener, NgSpice Name: zener
.model u4 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
* Schematic Name:                             zener, NgSpice Name: zener
.model u3 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
.tran 0.01e-00 0.1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
