* c:\fossee2\esim\library\subcircuitlibrary\lm302-port\lm302-port.cir

.include NPN.lib
.include D.lib
.include NJF.lib
.include PNP.lib
q1 net-_q1-pad1_ net-_q1-pad1_ net-_j1-pad2_ Q2N2222
q2 net-_q15-pad2_ net-_q1-pad1_ net-_j1-pad3_ Q2N2907A
q3 net-_q11-pad2_ net-_j1-pad3_ net-_q3-pad3_ Q2N2222
r1  net-_j1-pad1_ net-_q4-pad3_ 1k
r3  net-_j1-pad1_ net-_j1-pad1_ 500
r7  net-_j1-pad1_ net-_j1-pad1_ 500
r8  net-_j1-pad1_ net-_q8-pad3_ 1k
q4 net-_q11-pad2_ net-_q11-pad3_ net-_q4-pad3_ Q2N2907A
q8 net-_q11-pad3_ net-_q11-pad3_ net-_q8-pad3_ Q2N2907A
j1 net-_j1-pad1_ net-_j1-pad2_ net-_j1-pad3_ J2N3819
r2  net-_q3-pad3_ net-_j1-pad2_ 3k
q11 net-_c1-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2907A
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q5 net-_d1-pad2_ net-_d1-pad1_ net-_q5-pad3_ Q2N2222
r4  net-_q5-pad3_ net-_q10-pad1_ 200k
q6 net-_d1-pad2_ net-_q5-pad3_ net-_q6-pad3_ Q2N2222
r5  net-_q6-pad3_ net-_q10-pad3_ 150
q9 net-_q12-pad1_ net-_q12-pad3_ net-_q6-pad3_ Q2N2222
q12 net-_q12-pad1_ net-_c1-pad2_ net-_q12-pad3_ Q2N2222
r9  net-_q12-pad3_ net-_q10-pad1_ 200k
q10 net-_q10-pad1_ net-_q10-pad1_ net-_q10-pad3_ Q2N2222
q7 net-_q10-pad3_ net-_j1-pad3_ net-_q7-pad3_ Q2N2222
r6  net-_q7-pad3_ net-_j1-pad2_ 1.5k
q13 net-_q13-pad1_ net-_q13-pad1_ net-_d1-pad1_ Q2N2222
q15 net-_q13-pad1_ net-_q15-pad2_ net-_q15-pad3_ Q2N2222
r11  net-_q15-pad3_ net-_j1-pad2_ 200
q14 net-_c1-pad1_ net-_q14-pad2_ net-_q12-pad1_ Q2N2222
q18 net-_j1-pad1_ net-_q14-pad2_ net-_d1-pad2_ Q2N2222
q17 net-_j1-pad1_ net-_c1-pad1_ net-_q14-pad2_ Q2N2222
q16 net-_c1-pad1_ net-_d1-pad2_ net-_q13-pad1_ Q2N2222
r10  net-_c1-pad2_ net-_q13-pad1_ 5k
r13  net-_d1-pad2_ net-_q13-pad1_ 25
r12  net-_q14-pad2_ net-_d1-pad2_ 3k
c1  net-_c1-pad1_ net-_c1-pad2_ 10p
* u1  net-_j1-pad1_ net-_j1-pad2_ net-_d1-pad1_ net-_j1-pad2_ net-_q15-pad3_ net-_q13-pad1_ net-_j1-pad1_ net-_j1-pad1_ port
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
