* c:\fossee\esim\library\subcircuitlibrary\mc1741_sub\mc1741_sub.cir

.include PNP.lib
.include NPN.lib
.include PowerDiode.lib
d1 net-_d1-pad1_ net-_d1-pad2_ PowerDiode
q1 net-_d1-pad2_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q7 net-_d1-pad2_ net-_q7-pad2_ net-_q5-pad3_ Q2N2222
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q1-pad3_ Q2N2907A
q5 net-_c1-pad2_ net-_q2-pad2_ net-_q5-pad3_ Q2N2907A
q8 net-_q2-pad2_ net-_d1-pad2_ net-_d1-pad1_ Q2N2907A
q4 net-_d1-pad1_ net-_q2-pad1_ net-_q3-pad2_ Q2N2222
q3 net-_q2-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
r2  net-_q3-pad3_ net-_d3-pad2_ 1.0k
r3  net-_q3-pad2_ net-_d3-pad2_ 50k
r4  net-_q6-pad3_ net-_d3-pad2_ 1.0k
q6 net-_c1-pad2_ net-_q3-pad2_ net-_q6-pad3_ Q2N2222
q9 net-_q2-pad2_ net-_d3-pad1_ net-_q9-pad3_ Q2N2222
r5  net-_q9-pad3_ net-_d3-pad2_ 5.0k
d2 net-_d1-pad1_ net-_d2-pad2_ PowerDiode
r7  net-_d2-pad2_ net-_d3-pad1_ 39k
d3 net-_d3-pad1_ net-_d3-pad2_ PowerDiode
q12 net-_c1-pad1_ net-_d2-pad2_ net-_d1-pad1_ Q2N2907A
r9  net-_c1-pad1_ net-_q13-pad2_ 4.5k
r10  net-_d4-pad2_ net-_q13-pad2_ 7.5k
q11 net-_d4-pad2_ net-_c1-pad2_ net-_q11-pad3_ Q2N2222
q14 net-_d4-pad2_ net-_q11-pad3_ net-_q10-pad2_ Q2N2222
q10 net-_c1-pad2_ net-_q10-pad2_ net-_d3-pad2_ Q2N2222
r8  net-_d3-pad2_ net-_q11-pad3_ 50k
r11  net-_d3-pad2_ net-_q10-pad2_ 50
d4 net-_d4-pad1_ net-_d4-pad2_ PowerDiode
d5 net-_d5-pad1_ net-_d4-pad1_ PowerDiode
q16 net-_d1-pad1_ net-_c1-pad1_ net-_q15-pad2_ Q2N2222
q15 net-_c1-pad1_ net-_q15-pad2_ net-_d5-pad1_ Q2N2222
r12  net-_d5-pad1_ net-_q15-pad2_ 25
r13  net-_q17-pad3_ net-_d5-pad1_ 50
q17 net-_d3-pad2_ net-_d4-pad2_ net-_q17-pad3_ Q2N2907A
r1  net-_q7-pad2_ net-_r1-pad2_ 3k
r6  net-_d5-pad1_ net-_q7-pad2_ 6k
q13 net-_c1-pad1_ net-_q13-pad2_ net-_d4-pad2_ Q2N2222
c1  net-_c1-pad1_ net-_c1-pad2_ 30p
* u1  net-_q3-pad3_ net-_r1-pad2_ net-_q1-pad2_ net-_d3-pad2_ net-_q6-pad3_ net-_d5-pad1_ net-_d1-pad1_ port
.tran 0.01e-00 0.1e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
